US09227963B2
N-(3-bromo-2-methylphenyl)tricyclo[3.3.1.13,7]decane-1-carboxamide
3-Bromo-2-methylaniline (800 mg) and diisopropylethylamine (1667 mg) were added to dichloromethane (12 mL). 1-Adamantanecarbonyl chloride (940 mg) was added and the solution was stirred at room temperature for 16 hours. The solution was diluted with 50% ethyl acetate (hexanes), washed three times with 1 M aqueous HCl, washed with brine, dried over anhydrous sodium sulfate, and filtered. The solvent volume was partially reduced under vacuum, and the solid material precipitated out of solution, which was isolated by filtration to provide the title compound.

reactant | 3-Bromo-2-methylaniline | 800 mg | BrC=1C(=C(N)C=CC1)C | C7H8BrN
reactant | diisopropylethylamine | 1667 mg | C(C)(C)N(CC)C(C)C | C8H19N
reactant | dichloromethane | 12 mL | ClCCl | CH2Cl2
reactant | 1-Adamantanecarbonyl chloride | 940 mg | C12(CC3CC(CC(C1)C3)C2)C(=O)Cl | C11H15ClO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(3-bromo-2-methylphenyl)tricyclo[3.3.1.13,7]decane-1-carboxamide | BrC=1C(=C(C=CC1)NC(=O)C12CC3CC(CC(C1)C3)C2)C | C18H22BrNO
